US04049669
5-Methoxymethyl-4-methylthiazole (1.5 g.) was dissolved in 3 ml. of isopropanol and the solution was mixed with a hot solution of 0.38 g. of hydrochloric acid in 10 ml. of isopropanol which, upon cooling, gave 5-methoxymethyl-4-methylthiazole hydrochloride, m.p. 150°-152°.

reactant | 5-Methoxymethyl-4-methylthiazole | 1.5 g | COCC1=C(N=CS1)C | C6H9NOS
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-methoxymethyl-4-methylthiazole hydrochloride | Cl.COCC1=C(N=CS1)C | InChI=1S/C6H9NOS.ClH/c1-5-6(3-8-2)9-4-7-5;/h4H,3H2,1-2H3;1H
